US09029391B2
tert-Butoxy-[7-(2-hydroxy-ethoxy)-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester
To a solution of tert-Butoxy-[7-hydroxy-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester (50 mg, 0.17 mmol) in DMF (1 ml) was added K2CO3 (44.5 mg, 0.322 mmol) and 3-bromopropan-1-ol (40.3 mg, 0.322 mmol) at RT. The resultant mixture was stirred at 70° C. for 3 hr. The reaction mixture was diluted with water and extracted with EA (10 mL*3), dried over sodium sulfate and concentrated to dryness. The mixture was purified by Pre-TLC to afford the title product (30 mg, 55%). LCMS (10-80 AB—2MIN.M): Rt=1.223, purity=93.7%, M+1=510.

reactant | tert-Butoxy-[7-hydroxy-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester | 0.17 mmol, 50 mg | COC(C(C=1N(C(C2=CC(=CC=C2C1C=1C(=C2CCCOC2=CC1)C)O)=O)C)OC(C)(C)C)=O | C27H31NO6
reactant | K2CO3 | 0.322 mmol, 44.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromopropan-1-ol | 0.322 mmol, 40.3 mg | BrCCCO | C3H7BrO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-Butoxy-[7-(2-hydroxy-ethoxy)-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester | 30 mg, 55% | COC(C(C=1N(C(C2=CC(=CC=C2C1C=1C(=C2CCCOC2=CC1)C)OCCO)=O)C)OC(C)(C)C)=O | C29H35NO7
